US05076828
A four-necked flask fitted with stirrer and condenser means was charged with 81 g of oleylmethyldihydroxyethylammonium chloride, 33 g of cystine potassium salt and 200 g of isopropyl alcohol and the reaction was conducted at 65°-75° C. in an atmosphere of nitrogen gas introduced at a low flow rate for 7 hours. The precipitate was then filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in 200 g of toluene and the insolubles were filtered off. Finally, the filtrate was concentrated to give 95.2 g (theoretical yield 97.8 g) of di(oleylmethyldihydroxyethylammonium) cystinate as a waxy product.

reactant | oleylmethyldihydroxyethylammonium chloride | 81 g | [Cl-].C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O
reactant | cystine potassium salt | 33 g | [K+].C([C@@H](C(=O)[O-])N)SSC[C@@H](C(=O)[O-])N.[K+]
solvent | isopropyl alcohol | 200 g | C(C)(C)O | C3H8O
product | di(oleylmethyldihydroxyethylammonium) cystinate | 95.2 g | C([C@@H](C(=O)[O-])N)SSC[C@@H](C(=O)[O-])N.C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O.C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O | InChI=1S/2C21H43NO2.C6H12N2O4S2/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-22-20-21(23)24;7-3(5(9)10)1-13-14-2-4(8)6(11)12/h2*9-10,21-24H,2-8,11-20H2,1H3;3-4H,1-2,7-8H2,(H,9,10)(H,11,12)/b2*10-9-;/t;;3-,4-/m..0/s1
